US05958910
A solution of 0.5 g of N-[4-(3-bromo-phenyl)-thiazol-2-yl]-N-methoxymethyl-4-methyl-benzenesulfonamide in 8 ml of toluene was treated in succession with 0.1 g of anhydrous lithium chloride, 60 mg of tetrakis(triphenylphosphine)palladium, 0.23 g of phenylboric acid and 2 ml of 2N potassium carbonate solution. The mixture was boiled overnight, cooled and, after the addition of water, extracted with ethyl acetate. The organic phases were combined, dried with magnesium sulphate and concentrated. The residue was chromatographed on 80 g of Kieselgel 60 with ethyl acetate/hexane (1:4) as the eluent. The product-containing fractions were concentrated and yielded 0.29 g of colorless, amorphous N-(4-biphenyl-3-yl-thiazol-2-yl)-N-methoxymethyl-4-methyl-benzenesulfonamide, which was processed without further purification.

reactant | N-[4-(3-bromo-phenyl)-thiazol-2-yl]-N-methoxymethyl-4-methyl-benzenesulfonamide | 0.5 g | BrC=1C=C(C=CC1)C=1N=C(SC1)N(S(=O)(=O)C1=CC=C(C=C1)C)COC | C18H17BrN2O3S2
reactant | lithium chloride | 0.1 g | [Cl-].[Li+]
reactant | phenylboric acid | 0.23 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 2N, 2 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | N-(4-biphenyl-3-yl-thiazol-2-yl)-N-methoxymethyl-4-methyl-benzenesulfonamide | C1(=CC(=CC=C1)C=1N=C(SC1)N(S(=O)(=O)C1=CC=C(C=C1)C)COC)C1=CC=CC=C1 | C24H22N2O3S2
